* Sky130 CMOS Inverter -- post-layout extracted netlist (parasitics included)
* NOTE: CharLib finds the cell by grabbing the first line that mentions the
* cell name next to the SUBCKT keyword, so keep those words out of comments.

.subckt invx1_pex vdd vss z a
X0 z a vss vss sky130_fd_pr__nfet_01v8 ad=0.147 pd=1.54 as=0.147 ps=1.54 w=0.42 l=0.15
**devattr s=5880,308 d=5880,308
X1 z a vdd vdd sky130_fd_pr__pfet_01v8 ad=0.441 pd=3.22 as=0.441 ps=3.22 w=1.26 l=0.15
**devattr s=17640,644 d=17640,644
C0 z a 0.03192f
C1 vdd a 0.11533f
C2 vdd z 0.12757f
C3 z vss 0.3555f
C4 vdd vss 0.64171f
.ends
